Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ___
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
___ Lumbar Puncture
 
History of Present Illness:
___ yo M with h/o HIV, admitted with fever.  Pt is homeless
with recent PNA (treated with azithro) and recent human bite
(treated with amox/clav last week), saw ___ PCP and found to
have fevery to 101.8 and tachycardia.  + arthralgias  + mild
headache.  + chronic neck pain.  +DOE.  Pt admitted for further
care.

He reports a frontal headache, SOB, nonproductive cough.  He
reports diarrhea with his fevers.  He reports a recent CD4 count
of 200s and a viral load 'slightly higher than detectable.'

He is homeless and has a court hearing on ___.  His dog ___ 
is
at his bedside.

REVIEW OF SYSTEMS:
CONSTITUTIONAL: As per HPI
HEENT:  [X] All normal
RESPIRATORY:  As per HPI
CARDIAC:  [X] All normal
GI:  As per HPI
GU:  [X] All normal
SKIN:  [X] All normal
MUSCULOSKELETAL:  As per HPI
NEURO:  As per HPI
ENDOCRINE:  [X] All normal
HEME/LYMPH:  As per HPI
PSYCH:  [X] All normal
10 point review of systems negative except as noted above
 
Past Medical History:
HIV with AIDS: Fx ___, took Trizivir initially followed by 
TDF/Combivir- in ___ took Truvada/Reyataz/r switched to 
Darunavir/r, Truvada when he needed to be on a PPI for H. pylori 

and GERD
h/o DVT
H/o MRSA cellulitis
Neurosyphilis: x2- ___ and ___ / 2 treatment course- 
hospitalized at ___ and was followed until ___ 
MDD
eosinophilic esophagitis
HPV with HGSIL anus, LGSIL anorectal
herpes zoster
arthralgias
Allergic rhinitis
Thrombocytopenia
 
Social History:
___
Family History:
Mother - Living - CA (unclear type) 
Brother with prostate cancer, Small Cell Lung CA 
Father with throat cancer
Multiple family members with fibromyalgia
 
Physical Exam:
Admission Physical Exam:
afeb 118/77  93  96% (RA)
GENERAL:  NAD
Mentation:  Alert
Eyes:  NC/AT
Ears/Nose/Mouth/Throat:  MMM
Neck:  Supple
Resp:  CTA bilat
CV:  RRR
GI:  Soft, NT/ND
Skin:  No rashes or lesions noted; no pressure ulcers
Extremities:  No edema.  2+ radial, 1+ DP pulses bilaterally
Lymph/Heme/Immun:  No cervical ___ noted
Neuro:
- Mental Status:  Alert & oriented x3
Can turn head side-to-side and nod forward/backward without
difficulty

Discharge exam:
Vitals reviewed and notable for no fevers at all since 
admission, T-max 98.6, vitals otherwise unremarkable, inputs and 
outputs reviewed and also unremarkable.  Well-appearing 
middle-aged man, alert, cooperative, NAD.  Ambulating in the 
room without difficulty.  Anicteric, MMM.  His neck is supple.  
Equal chest rise, CTAB posteriorly, no WOB or cough at all.  
Heart regular.  Abdomen soft, NTND.  Extremities are warm and 
well-perfused, no pitting edema.  He has a healing lesion on his 
left medial lower leg, which he says is a human bite that is 
much improved from prior, no tenderness, no signs of active 
infection.  No obvious focal neurological deficits.  No rashes.  
No joint effusions.
 
Pertinent Results:
Admission labs
___ 08:56PM   PLT COUNT-238
___ 08:56PM   NEUTS-62.9 ___ MONOS-7.5 EOS-4.9 
BASOS-0.6 IM ___ AbsNeut-6.07 AbsLymp-2.28 AbsMono-0.72 
AbsEos-0.47 AbsBaso-0.06
___ 08:56PM   WBC-9.7 RBC-4.50* HGB-12.2* HCT-38.5* MCV-86 
MCH-27.1 MCHC-31.7* RDW-14.0 RDWSD-43.0
___ 08:56PM   estGFR-Using this
___ 08:56PM   GLUCOSE-87 UREA N-12 CREAT-0.9 SODIUM-141 
POTASSIUM-3.8 CHLORIDE-103 TOTAL CO2-24 ANION GAP-14
___ 09:00PM   LACTATE-2.2*
___ 01:55AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 01:55AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:55AM   PLT COUNT-249
___ 01:55AM   NEUTS-60.1 ___ MONOS-8.8 EOS-5.0 
BASOS-0.7 IM ___ AbsNeut-4.84 AbsLymp-2.01 AbsMono-0.71 
AbsEos-0.40 AbsBaso-0.06
___ 01:55AM   WBC-8.1 RBC-4.45* HGB-12.6* HCT-38.3* MCV-86 
MCH-28.3 MCHC-32.9 RDW-14.0 RDWSD-43.6
___ 01:55AM URINE  UHOLD-HOLD
___ 01:55AM URINE  HOURS-RANDOM
___ 01:55AM   HIV1 VL-1.5*
___ 09:00AM   PLT COUNT-254
___ 09:00AM   WBC-8.1 RBC-4.46* HGB-12.3* HCT-38.4* MCV-86 
MCH-27.6 MCHC-32.0 RDW-14.0 RDWSD-43.4
___ 09:00AM   CALCIUM-9.1 PHOSPHATE-3.4 MAGNESIUM-2.2
___ 09:00AM   GLUCOSE-90 UREA N-11 CREAT-0.9 SODIUM-138 
POTASSIUM-4.4 CHLORIDE-104 TOTAL CO2-23 ANION GAP-11
___ 01:15PM   ___ PTT-29.5 ___
___ 06:32PM CEREBROSPINAL FLUID (CSF)  TNC-8* RBC-275* 
POLYS-1 ___ MONOS-8 OTHER-0
___ 06:32PM CEREBROSPINAL FLUID (CSF)  TNC-4 RBC-66* 
POLYS-0 ___ MONOS-11 ATYPS-3
___ 06:32PM CEREBROSPINAL FLUID (CSF)  PROTEIN-53*

Microbiology
___ SPUTUM ACID FAST SMEAR-FINAL [negative]; ACID FAST 
CULTURE-PENDING
___ SPUTUM ACID FAST SMEAR-FINAL [negative]; ACID FAST 
CULTURE-PENDING
___ CSF;SPINAL FLUID  GRAM STAIN-FINAL [negative]; FLUID 
CULTURE-PRELIMINARY; FUNGAL CULTURE-PRELIMINARY
___ CSF;SPINAL FLUID  CRYPTOCOCCAL ANTIGEN-FINAL
___ Blood Culture, Routine-PENDING
___ SPUTUM ACID FAST SMEAR-FINAL [negative]; ACID FAST 
CULTURE-PENDING; MTB Direct Amplification-PRELIMINARY
___ Legionella Urinary Antigen -FINAL
___ Blood Culture, Routine-PENDING
___ Blood Culture, Routine-PENDING
___ URINE CULTURE-PRELIMINARY {ENTEROCOCCUS SP.} -- 
10,000-100,000 CFU/mL
___ Blood Culture, Routine-PENDING

___ 06:32PM CEREBROSPINAL FLUID (CSF) HERPES SIMPLEX VIRUS 
PCR-PND
___ 08:28AM URINE Streptococcus pneumoniae Antigen 
Detection-PND

Imaging
___ CXR -- IMPRESSION: No acute cardiopulmonary process.

Discharge labs
___ 07:20AM BLOOD WBC-5.8 RBC-4.06* Hgb-11.2* Hct-35.2* 
MCV-87 MCH-27.6 MCHC-31.8* RDW-13.7 RDWSD-43.1 Plt ___
___ 01:55AM BLOOD  WBC-PND Lymph-PND Abs ___ CD3%-PND 
Abs CD3-PND CD4%-PND Abs CD4-PND CD8%-PND Abs CD8-PND 
CD4/CD8-PND
___ 07:20AM BLOOD Glucose-103* UreaN-14 Creat-0.9 Na-141 
K-4.5 Cl-105 HCO3-21* AnGap-15
___ 09:00AM BLOOD Calcium-9.1 Phos-3.4 Mg-2.___ man with a past medical history of HIV on HAART, 
homeless, with a recent human bite to the left lower leg, who 
presented to his ___ primary care provider with ___ 
fever to 101.8, and tachycardia, arthralgias, mild headache, 
chronic neck pain, and mild dyspnea.  He was admitted to ___ 
for further care.  Multiple tests were sent as noted below, a 
lumbar puncture was performed, he was treated with empiric 
antimicrobials.  However, the day after admission (___) he 
was very anxious to leave the hospital, and felt like all of his 
symptoms had resolved.  Despite being counseled about the risks 
of leaving before a clear diagnosis had been made, the patient 
was insistent and we felt he had capacity to make this decision. 
 As a result of this, he left against medical advice (AMA).  We 
arranged close follow-up with his primary care physician for the 
next morning, ___ at 8:40 AM as described below.  Prior to 
discharge I reviewed the risks of leaving with him, the pending 
test results, his medications, and the follow-up plan.  I also 
called and spoke with ___ to coordinate care.

#History of fever, malaise, dyspnea and cough, and headache
#HAART
–All of these were of unclear etiology, and by the time I met 
him on the day of discharge, all of these symptoms had resolved
–He had no fevers whatsoever in the hospital, he had no dyspnea 
or cough during my entire time with him in the ___ 
isolation room
–He was evaluated with routine blood tests, blood cultures, 
urine Legionella and urine strep pneumo antigen, urine culture, 
induced sputum's for acid-fast bacteria, and a lumbar puncture, 
with fluid sent for cryptococcal antigen, culture, and HSV PCR
–As noted in the results section of this discharge summary most 
of those tests were negative, the remaining being no growth to 
date, and only a few pending at the time of discharge
–The patient was felt to be at low risk for active pulmonary 
tuberculosis: Despite his history of fever, dyspnea, cough, he 
had none of those symptoms on the day of discharge, his chest 
x-ray was normal, and it was noted that his HIV while not 
optimally controlled, had most recently been noted to have a CD4 
count of greater than 200 (repeat CD4 count was pending at the 
time of discharge).  Regardless, all of his acid-fast smears 
were negative.
-Patient was not discharged with any antibiotics as a result of 
all these tests, and has close follow-up with his PCP
–He will continue with his highly active anti-retroviral 
therapy, as well as his other home medications including dapsone
–The patient requested loperamide on discharge given that 
broad-spectrum antibiotics have previously given him loose 
stools, so he was provided with a prescription for this 
medication

Although it is AGAINST MEDICAL ADVICE, I feel that the patient 
has capacity to make the decision to leave the hospital, and 
that it is not putting himself or others at significant risk for 
him to leave.

I spent [ ] <30min; [x] >30min in discharge day management 
services.

___, MD
___
Pager ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Qvar RediHaler (beclomethasone dipropionate) 40 mcg/actuation 
inhalation DAILY 
2. ClonazePAM 0.5 mg PO BID 
3. ValACYclovir 1000 mg PO DAILY:PRN HSV 
4. Dolutegravir 50 mg PO DAILY 
5. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Other 
6. Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY 
7. Dapsone 100 mg PO DAILY 
8. Cetirizine 10 mg PO DAILY:PRN allergy 
9. Tamsulosin 0.4 mg PO QHS 
10. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 
11. DiphenhydrAMINE 25 mg PO TID W/MEALS:PRN eosinophilic 
esophagitis 

 
Discharge Medications:
1.  LOPERamide 2 mg PO QID:PRN loose stools 
RX *loperamide [Imodium A-D] 2 mg 1 capsule by mouth QID:PRN 
Disp #*10 Capsule Refills:*0 
2.  Cetirizine 10 mg PO DAILY:PRN allergy  
3.  ClonazePAM 0.5 mg PO BID  
4.  Dapsone 100 mg PO DAILY  
5.  DiphenhydrAMINE 25 mg PO TID W/MEALS:PRN eosinophilic 
esophagitis  
6.  Dolutegravir 50 mg PO DAILY  
7.  Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY  
8.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1  
9.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Other  
10.  Qvar RediHaler (beclomethasone dipropionate) 40 
mcg/actuation inhalation DAILY  
11.  Tamsulosin 0.4 mg PO QHS  
12.  ValACYclovir 1000 mg PO DAILY:PRN HSV  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#History of fever, shortness of breath, cough, malaise
#HIV

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted after having a fever, and being referred in by 
your primary care provider.  We noted that you also had 
described having some shortness of breath and cough, as well as 
generalized malaise and achy pains, and a slight headache.  We 
evaluated you with blood tests, chest x-ray, and a lumbar 
puncture.  We found no obvious evidence of infection, but many 
of the tests had not yet been completed at the time of your 
discharge.  We encouraged you to stay longer in the hospital, 
but you were anxious to leave to try and address your housing 
situation.  We think it is very important that you follow-up 
with your primary care doctor as noted below.

We will call your cell phone (___) or your brother's 
cell phone ___, ___ if we find out any concerning 
test results.
 
Followup Instructions:
___